US06500828B1
c) 6-Chloro-3-(2,5-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine
To a slurry of 3-chloro-4-(1,1-dimethylethyl)-6-hydrazinylpyridazine (1.3 g, 6.5 mmol) in 0.1N hydrochloric acid (60 ml) was added 2,5-difluorobenzaldehyde (0.70 ml, 6.5 mmol) and the reaction mixture was stirred at room temperature for 30 minutes and then heated to 60° C. for 40 minutes. The reaction mixture was allowed to cool and the resultant solid was collected by filtration, dried and dissolved in ethanol (60 ml). To this solution was added iron(III) chloride hexahydrate (5.4 g, 32.5 mmol) in ethanol (15 ml) dropwise over 10 minutes at 80° C. The reaction mixture was stirred at 80° C. for 2 h, allowed to cool and the solvent removed by evaporation under vacuum. The residue was dissolved in dichloromethane (100 ml) and washed with water (3×100 ml), brine, dried (MgSO4), filtered and concentrated under vacuum to yield the title compound (0.75 g). Data for the title compound: 1H NMR (250 MHz, CDCl3) δ1.57 (9H, s), 7.22-7.29 (2H, m), 7.65-7.71 (1H, m), 8.19 (1H, s); MS (ES+) m/e 323 [MH]+.

reactant | 3-chloro-4-(1,1-dimethylethyl)-6-hydrazinylpyridazine | 6.5 mmol, 1.3 g | ClC=1N=NC(=CC1C(C)(C)C)NN | C8H13ClN4
reactant | 2,5-difluorobenzaldehyde | 6.5 mmol, 0.70 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
solvent | hydrochloric acid | 0.1N, 60 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron(III) chloride hexahydrate | 32.5 mmol, 5.4 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 6-Chloro-3-(2,5-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.75 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC(=C2)F)F)C(C)(C)C | C15H13ClF2N4
